US04975532
Preparation of 5-Fluoresceinyl thioureidoacetic Acid t-Butyl Ester
To a 50 ml round bottom flask equipped with magnetic stirring bar was added a solvent mixture (10 ml THF, 5 ml of CHCl3, and 5 ml of DMF) and 168 mg (1 mmole) of glycine t-butyl ester hydrochloride. The solution was cooled by an ice-water bath and 415 ml (3 mmoles) of triethylamine was added. To the above mixture was added FITC (fluorescein isothiocyanate, 1 mmole, 385 mg) in small portions over 3 hours. The reaction mixture was allowed to stir overnight and then concentrated to a red-brown oil that was dissolved in 100 ml ethyl acetate and washed with 5 ml water followed by 2-10 ml portions of saturated brine. Preparative tlc on silica with 10% methanol in chloroform and a trace of acetic acid gave tlc pure material, 240 mg. Molar extinction coefficient: ε=79,500 M- cm-1 (λmax=494 nm) in 0.5M sodium carbonate, pH 9.53. Anal. calc for C27H24N2O7S·H2O: C, 60.22; H, 4.83; N, 5.20; S, 5.95. Found: C, 60.16; H, 4.85; N, 5.01; S, 6.15.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | glycine t-butyl ester hydrochloride | 1 mmole, 168 mg | Cl.C(C)(C)(C)OC(CN)=O
reactant | triethylamine | 3 mmoles, 415 ml | C(C)N(CC)CC | C6H15N
reactant | FITC | 1 mmole, 385 mg | C1=CC2=C(C=C1N=C=S)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O | C21H11NO5S
solvent | sodium carbonate | 0.5M | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | thioureidoacetic Acid t-Butyl Ester | C(C)(C)(C)OC(CNC(=S)N)=O | C7H14N2O2S
